US05034047
a) 3-Hydroxy-5-[3-tetrahydrofur-3-ylisoxazol-5-yl]-2-cyclohexen-1-one
10.6 g of dimethyl malonate in 300 ml of methanol were initially taken, and 14.4 g of a 30% strength sodium ethylate solution in methanol were added at room temperature. Thereafter, 16.0 g of 4-[tetrahydrofur-3-yl-isoxazol-5-yl]-3-buten-2-one were added and the mixture was stirred for 1 day at 25° C. The residue which remained after the solvent had been removed was taken up in 10% strength sodium hydroxide solution and stirred for 24 hours at 25° C. The sodium hydroxide phase was washed with methyl tert-butyl ether, acidified to pH 2 with concentrated hydrochloric acid and then heated at 85° C. for 2 hours. The solid formed was filtered off, washed with water and dried. 12.3 g of a beige solid of melting point 142°-144° C. were obtained.

reactant | dimethyl malonate | 10.6 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | 4-[tetrahydrofur-3-yl-isoxazol-5-yl]-3-buten-2-one | 16.0 g | O1CC(CC1)C1=NOC(=C1)C=CC(C)=O | C11H13NO3
solvent | methanol | 300 ml | CO | CH4O
product | 3-Hydroxy-5-[3-tetrahydrofur-3-ylisoxazol-5-yl]-2-cyclohexen-1-one | 12.3 g | OC1=CC(CC(C1)C1=CC(=NO1)C1COCC1)=O | C13H15NO4
